US07592477B2
Step a) Formation of 4-(aminomethyl)-N-dodecylbenzamide
A suspension of 4-(aminomethyl)-N-dodecylbenzamide hydrochloride (1.97 g) in AcOEt (100 mL) was washed with a saturated aqueous solution of NaHCO3 (50 mL). The organic layer was dried over MgSO4 and evaporated to give the title compound as a white solid (1.6 g).

reactant | 4-(aminomethyl)-N-dodecylbenzamide hydrochloride | 1.97 g | Cl.NCC1=CC=C(C(=O)NCCCCCCCCCCCC)C=C1
solvent | AcOEt | 100 mL | CCOC(=O)C | C4H8O2
product | 4-(aminomethyl)-N-dodecylbenzamide | 1.6 g | NCC1=CC=C(C(=O)NCCCCCCCCCCCC)C=C1 | C20H34N2O
